US04505739
2 g (0.01 mole) of 5-t-butyl-3-propionylaminopyrazole as prepared in Example 5 was dissolved in 20 ml of concentrated sulfuric acid, and the solution was cooled to 0° C. 0.6 ml of fuming nitric acid was added dropwise thereto, and the mixture was allowed to react for one hour at 0° C. After completion of the reaction, the reaction solution was poured into a large amount of ice, whereby crystals were precipitated. The crystals were collected by filtration and washed with water to obtain 1 g of 5-t-butyl-4-nitro-3-propionylaminopyrazole.

reactant | 5-t-butyl-3-propionylaminopyrazole | 0.01 mole, 2 g | C(C)(C)(C)C1=CC(=NN1)NC(CC)=O | C10H17N3O
reactant | nitric acid | 0.6 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 5-t-butyl-4-nitro-3-propionylaminopyrazole | 1 g | C(C)(C)(C)C1=C(C(=NN1)NC(CC)=O)[N+](=O)[O-] | C10H16N4O3
